US04029772
A solution of 0.015 moles of t-butyloxycarbonylalanylalanylproline benzyl ester in 50 ml of methanol is reduced with hydrogen at 40 lbs pressure in the presence of 1 gm of 10% Pd/C. The reaction mixture is filtered and concentrated in vacuo to give t-butyloxycarbonylalanylalanylproline.

reactant | t-butyloxycarbonylalanylalanylproline benzyl ester | 0.015 moles | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C)=O)=O | C23H33N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 1 gm | [Pd] | Pd
product | t-butyloxycarbonylalanylalanylproline | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H27N3O6
